US03991067
3-Adamant-1-ylcarbamoyl-1,2,4-oxadiazole.
3-Azidocarbonyl-1,2,4-oxadiazole (350 mg.) was added to a solution of 1-aminoadamantane (378 mg.) in chloroform (15 ml.) and the mixture was stirred for 24 hr. The chloroform solution was evaporated to dryness under reduced pressure and the residue was recrystallised from aqueous methanol to give title compound (167 mg.), m.p. 141°-142°, νmax. (EtOH) 230 nm (ε 3,910), λmax. (Nujol) 3392 (--NH--) 1692 and 1515 cm.-1 (CONH). Further examples provided in Table II were prepared by the following general methods:

reactant | 3-Azidocarbonyl-1,2,4-oxadiazole | 350 mg | N(=[N+]=[N-])C(=O)C1=NOC=N1 | C3HN5O2
reactant | 1-aminoadamantane | 378 mg | NC12CC3CC(CC(C1)C3)C2 | C10H17N
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Adamant-1-ylcarbamoyl-1,2,4-oxadiazole | 167 mg | C12(CC3CC(CC(C1)C3)C2)NC(=O)C2=NOC=N2 | C13H17N3O2
